US08686005B2
3-Chloro-2,4-dimethyl-aniline.
To a solution of a mixture 2-chloro-1,3-dimethyl-4-nitro-benzene and chloro-1,3-dimethyl-5-nitro-benzene (12.8 g, 69 mmol) in EtOH (75 mL), conc. HCl (75 mL) was added. Than SnCl2 (51.0 g) was added in two portions. The mixture was stirred overnight at RT, then heated at 60° C. for 30 min, cooled to 0-5° C. (ice bath). Neutralized with NaOH (70 g) in H2O (500 ml). The product was extracted with Et2O (500 ml). Extract was dried over Na2SO4, evaporated. The residue was crystallized two times from hexane providing 3.66 g 3-chloro-2,4-dimethyl-phenylamine as white crystals. The filtrates were evaporated in vacuo and the residue was separated on SiO2 column (200 g), hexane-EtOAc (0 to 10% v/v). providing additionally 3.11 g of the product. Yield 6.77 g (43.5 mmol, 63%).

reactant | 2-chloro-1,3-dimethyl-4-nitro-benzene | ClC1=C(C=CC(=C1C)[N+](=O)[O-])C | C8H8ClNO2
reactant | chloro-1,3-dimethyl-5-nitro-benzene | 69 mmol, 12.8 g | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8ClNO2
reactant | SnCl2 | 51.0 g | Cl[Sn]Cl
reactant | NaOH | 70 g | [OH-].[Na+]
solvent | EtOH | 75 mL | CCO | C2H6O
solvent | HCl | 75 mL | Cl | ClH
solvent | H2O | 500 ml | O | H2O
product | 3-Chloro-2,4-dimethyl-aniline | 3.11 g | ClC=1C(=C(N)C=CC1C)C | C8H10ClN
